US06110960
To 600 mg (2.56 mmol) of 8-tert-butyl-4,4-dimethyl-thiochromane and 0.38 g (2.84 mmol) of (+/-) tetrahydro-3-furoic acid chloride [which is prepared by reacting 1.5 g (12.9 mmol) (+/-) tetrahydro-3-furoic acid with 1.38 mL (15.5 mmol) oxalyl chloride in 40 mL benzene at 50° C. for 1 hour followed by concentration of the volatiles under reduced pressure] in 10 mL benzene at 0° C. is added 0.32 mL (2.73 mmol) tin tetrachloride. The reaction is allowed to stir 1 hour at 0° C. and is then diluted with ether and washed with water and sodium chloride. The product is purified by flash silica gel chromatography, eluting with 7:3 hexane:ethyl acetate to give 257 mg of 8-tert-butyl-4,4-dimethyl-6-(1-oxo-1-(3-tetrahydrofuryl)methylthiochromane.

reactant | 8-tert-butyl-4,4-dimethyl-thiochromane | 2.56 mmol, 600 mg | C(C)(C)(C)C=1C=CC=C2C(CCSC12)(C)C | C15H22S
reactant | (+/-) tetrahydro-3-furoic acid chloride | 2.84 mmol, 0.38 g | O1CC(CC1)C(=O)Cl | C5H7ClO2
reactant | (+/-) tetrahydro-3-furoic acid | 12.9 mmol, 1.5 g | O1CC(CC1)C(=O)O | C5H8O3
reactant | oxalyl chloride | 15.5 mmol, 1.38 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tin tetrachloride | 2.73 mmol, 0.32 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | 1-oxo-1-(3-tetrahydrofuryl)methylthiochromane | O=S1(CCCC2=CC=CC=C12)CC1COCC1 | C14H20O2S
